US07173004B2
To a solution of 14-tert-butoxycarbonylamino-18-(tert-butyl-dimethyl-silanyloxy)-2,15-dioxo-3,16-diaza-tricyclo[14.3.0.04,6]nonadec-7-ene-4-carboxylic acid ethyl ester (1.5 g, 2.47 mmoL) in a mixed solvent system of THF (4 mL), methanol (1 mL), and water (2 mL), was added powdered lithium hydroxide monohydrate (1.0 g, 50 mmoL). The light yellow slurry was stirred at rt under N2 for 4 h. The mixture was then concentrated in vacuo, and the residue partioned between ether and water. The ether phase was discarded, and the aqueous phase was treated with 1 N HCl until reaching pH 4. This acidic solution was extracted with EtOAc (3×). The combined EtOAc extracts were dried (MgSO4), and concentrated in vacuo to give 1.2 g (84%) of 14-tert-butoxycarbonylamino-18-(tert-butyl-dimethyl-silanyloxy)-2,15-dioxo-3,16-diaza-tricyclo[14.3.0.04,6]nonadec-7-ene-4-carboxylic acid as an off-white solid. 1H NMR (300 MHz, CD3OD) 0.12 (s, 6H), 0.89 (s, 9H), 1.23–1.64 (m, 17H), 1.70–1.87 (m, 1H), 1.90–2.49 (m, 6H), 3.70–3.80 (m, 1H), 3.83–3.90 (m, 1H), 4.28–4.36 (m, 1H), 4.47–4.55 (m, 1H), 4.65 (s, 1H), 5.30–5.39 (m, 1H), 5.53–5.62 (m, 1H). LC-MS (Method A, retention time: 3.69 min), MS m/z 580 (M++1).

reactant | 14-tert-butoxycarbonylamino-18-(tert-butyl-dimethyl-silanyloxy)-2,15-dioxo-3,16-diaza-tricyclo[14.3.0.04,6]nonadec-7-ene-4-carboxylic acid ethyl ester | 1.5 g | C(C)OC(=O)C12NC(C3CC(CN3C(C(CCCCCC=CC2C1)NC(=O)OC(C)(C)C)=O)O[Si](C)(C)C(C)(C)C)=O | C31H53N3O7Si
reactant | THF | 4 mL | C1CCOC1 | C4H8O
reactant | methanol | 1 mL | CO | CH4O
reactant | lithium hydroxide monohydrate | 1.0 g | O.[OH-].[Li+]
solvent | water | 2 mL | O | H2O
product | 14-tert-butoxycarbonylamino-18-(tert-butyl-dimethyl-silanyloxy)-2,15-dioxo-3,16-diaza-tricyclo[14.3.0.04,6]nonadec-7-ene-4-carboxylic acid | 1.2 g, 84% | C(C)(C)(C)OC(=O)NC1CCCCCC=CC2CC2(NC(C2CC(CN2C1=O)O[Si](C)(C)C(C)(C)C)=O)C(=O)O | C29H49N3O7Si
